US07642361B2
3-(4-tert-butyl-phenyl-4-cyano-5-iodo-thiophene-2-carboxylic acid methyl ester
Combine 5-amino-3-(4-tert-butyl-phenyl)-4-cyano-thiophene-2-carboxylic acid methyl ester (0.29 mmol) in acetonitrile and add diiodomethane (1.02 mmol) and iso-amyl nitrite (0.73 mmol) and heat to 100° C. After 15 minutes, cool the reaction slowly to room temperature and stir an additional 1 hour. Concentrate the reaction to a dark oil which is purified by radial chromatography on a 2000 micron silica plate eluting with 50/50 methylene chloride/hexane and then 100% methylene chloride. Concentrate desired fractions were to give the title compound. 1H NMR (400 MHz, CDCl3) δ 7.41 (m, 4H), 3.78 (s, 3H), 1.37 (s, 9H).

reactant | 5-amino-3-(4-tert-butyl-phenyl)-4-cyano-thiophene-2-carboxylic acid methyl ester | 0.29 mmol | COC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C(C)(C)C)C#N)N | C17H18N2O2S
reactant | diiodomethane | 1.02 mmol | ICI | CH2I2
reactant | iso-amyl nitrite | 0.73 mmol | N(=O)OCCC(C)C | C5H11NO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-tert-butyl-phenyl-4-cyano-5-iodo-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=C(C1C1=CC=C(C=C1)C(C)(C)C)C#N)I | C17H16INO2S
